US06420375B1
Preparation of (E)-3-(3-quinolinyl)-2-propen-1-ol
A solution of diisobutylaluminum hydride in toluene (1.0M, 31 ml) was added dropwise to a solution of ethyl (E)-3-(3-quinolinyl)acrylate (2.94 g) in CH2Cl2 (50 ml) at −78° C. and the mixture was stirred at −78° C. for 30 minutes. The reaction mixture was washed with saturated aqueous solution of sodium potassium tartrate and brine, dried and concentrated. The residue was crystallized from CH2Cl2-ethyl acetate to give the titled compound (1.31 g) as a colorless solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl (E)-3-(3-quinolinyl)acrylate | 2.94 g | N1=CC(=CC2=CC=CC=C12)/C=C/C(=O)OCC | C14H13NO2
solvent | toluene | 1.0M, 31 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-(3-quinolinyl)-2-propen-1-ol | 1.31 g | N1=CC(=CC2=CC=CC=C12)/C=C/CO | C12H11NO
